US05958942
i) Synthesis of 1-[4-(amino)butan-1-yl]-1,2-dihydro-1,4,7b-triazacyclopent[cd]inden-2-one-dihydrochloride
To a solution of 548 mg (1.66 mmol) of 1-[4-tert-butoxycarbonylamino)butan-1-yl)-1,2-dihydro-1,4,7b-triazacyclopent[cd]inden-2-one in 10 ml of methanol was added dropwise 10 ml of conc. HCl. The mixture was stirred for one hour at room temperature. The solvent was distilled off. To the residue was added acetone. The resulting solid was collected by filtration and washed with acetone to give 400 mg of the desired compound (79.5%, grayish white solid).

reactant | 1,2-dihydro-1,4,7b-triazacyclopent[cd]inden-2-one | N1C(C=2N3C(C=CC=C13)=NC2)=O | C8H5N3O
reactant | HCl | 10 ml | Cl | ClH
solvent | methanol | 10 ml | CO | CH4O
product | 1-[4-(amino)butan-1-yl]-1,2-dihydro-1,4,7b-triazacyclopent[cd]inden-2-one-dihydrochloride | 400 mg, 79.5% | Cl.Cl.NCCCCN1C(C=2N3C(C=CC=C13)=NC2)=O | InChI=1S/C12H14N4O.2ClH/c13-6-1-2-7-15-11-5-3-4-10-14-8-9(12(15)17)16(10)11;;/h3-5,8H,1-2,6-7,13H2;2*1H
